US04185115
4-[3-(p-Chlorophenyl)propylamino]benzoic acid
A mixture of 16.3 g. of ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate, 16.3 g. of potassium hydroxide and 200 ml. of 95% ethanol is refluxed for 3 hours. The mixture is diluted with 100 ml. of water brought to pH 6 with concentrated hydrochloric acid. Chilling and filtering gave 15 g. of white crystals. Recrystallization from ethanol gave 8.6 g. of white crystals, m.p. 191°-192° C.

reactant | ethyl 4-[3-(p-chlorophenyl)propylamino]benzoate | ClC1=CC=C(C=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H20ClNO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[3-(p-Chlorophenyl)propylamino]benzoic acid | ClC1=CC=C(C=C1)CCCNC1=CC=C(C(=O)O)C=C1 | C16H16ClNO2
